US08053456B2
A flask was charged with 5-amino-1-methyl-1H-indole (8.8 g; 60 mmol), thiocarbonyl diimidazole (10.7 g; 60 mmol) and ethyl acetate (200 mL). The reaction was heated at 50° C. for five minutes, and after cooling, the solvent was evaporated. The crude material was dissolved in dichloromethane (100 mL) and filtered through a short plug of silica gel, which was washed with another bolus of dichloromethane (100 mL). The organic eluent was evaporated to give 5-isothiocyanato-1-methyl-1H-indole (8.9 g; 47 mmol).

reactant | 5-amino-1-methyl-1H-indole | 60 mmol, 8.8 g | NC=1C=C2C=CN(C2=CC1)C | C9H10N2
reactant | thiocarbonyl diimidazole | 60 mmol, 10.7 g | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-isothiocyanato-1-methyl-1H-indole | 47 mmol, 8.9 g | N(=C=S)C=1C=C2C=CN(C2=CC1)C | C10H8N2S
